US08383139B2
4-({3-[1-(4-Chlorophenyl)cyclopropyl]-1,2,4-thiadiazol-5-yl}oxy)-2,5-dimethylaniline
0.70 g (5.12 mmol) of 2,5-dimethyl-4-hydroxyaniline is placed in 18 ml of acetonitrile, 0.85 g (6.14 mmol) of potassium carbonate is added at ambient temperature and the mixture is stirred at ambient temperature for 30 min. Subsequently, 2.0 g (5.12 mmol) of 3-[1-(4-chloro-phenyl)cyclopropyl]-5-[(4-methylphenyl)sulphonyl]-1,2,4-thiadiazole are added and the reaction mixture is stirred at 50° C. for 12 h. After cooling, the reaction mixture is concentrated using a rotary evaporator and the residue is taken up in dichloromethane, extracted twice with water, dried over Na2SO4 and freed from the solvent under vacuum. 1.46 g of clean product are obtained (76.9% yield, log P (pH 2.3)=4.44).

reactant | 2,5-dimethyl-4-hydroxyaniline | 5.12 mmol, 0.70 g | CC1=C(N)C=C(C(=C1)O)C | C8H11NO
reactant | potassium carbonate | 6.14 mmol, 0.85 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-[1-(4-chloro-phenyl)cyclopropyl]-5-[(4-methylphenyl)sulphonyl]-1,2,4-thiadiazole | 5.12 mmol, 2.0 g | ClC1=CC=C(C=C1)C1(CC1)C1=NSC(=N1)S(=O)(=O)C1=CC=C(C=C1)C | C18H15ClN2O2S2
solvent | acetonitrile | 18 ml | C(C)#N | C2H3N
product | 4-({3-[1-(4-Chlorophenyl)cyclopropyl]-1,2,4-thiadiazol-5-yl}oxy)-2,5-dimethylaniline | 1.46 g, 76.9% yield | ClC1=CC=C(C=C1)C1(CC1)C1=NSC(=N1)OC1=CC(=C(N)C=C1C)C | C19H18ClN3OS
